US04464300
A suspension of 195 mg of 6-(2-chlorophenyl)-1-methyl-8-nitro-4H-s-triazolo[4,3-a][1]benzazepine in 5 ml of concentrated hydrochloric acid is treated with 375 mg of tin (II) chloride, whereupon the mixture is heated to 50° for 40 hours while stirring. After cooling to room temperature, the mixture is neutralized with sodium hydrogen carbonate solution and extracted with chloroform. The chloroform extracts are dried and then evaporated. The residue is crystallized from ethyl acetate/ether, there being obtained 8-amino-6-(2-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1]benzazepine of melting point 271°-273°.

reactant | 6-(2-chlorophenyl)-1-methyl-8-nitro-4H-s-triazolo[4,3-a][1]benzazepine | 195 mg | ClC1=C(C=CC=C1)C1=CCC=2N(C3=C1C=C(C=C3)[N+](=O)[O-])C(=NN2)C | C18H13ClN4O2
reactant | tin (II) chloride | 375 mg | [Sn](Cl)Cl
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | hydrochloric acid | 5 ml | Cl | ClH
product | 8-amino-6-(2-chlorophenyl)-1-methyl-4H-s-triazolo[4,3-a][1]benzazepine | NC=1C=CC2=C(C(=CCC=3N2C(=NN3)C)C3=C(C=CC=C3)Cl)C1 | C18H15ClN4
